US07465808B2
To a suspension of sodium hydride (326 mg, 8.10 mmol) in DMF (13 mL) at 0° C. was added a solution of (1H-Indol-3-yl)-acetic acid methyl ester (1.0 g, 5.3 mmol) in DMSO (3 mL). The mixture was stirred at 0° C. for 30 min and then at rt for 1 h. The reaction mixture was cooled back down to 0° C., and SEMCl (1.35 mL, 8.41 mmol) was added neat. The reaction mixture was stirred at 0° C. for 15 min and then at rt for 1 h. The reaction mixture was then partitioned between water (200 mL) and diethyl ether (200 mL) followed by further extraction of the water layer with ether (2×200 mL) and drying of the combined organic layers with Na2SO4. After removal of the solvent under reduced pressure, the crude material was purified by flash chromatography (EtOAc/hexanes) giving 1.1 g (70%) of [1-(2-trimethylsilanyl-ethoxymethyl)-1H-indol-3yl]-acetic acid methyl ester. 1H NMR (400 MHz, CDCl3): 7.65 (d, J=7.8 Hz, 1H), 7.46 (d, J=8.1, 1H), 7.26 (m, 1H), 7.22 (m, 2H), 5.51 (s, 2H), 3.83 (s, 2H), 3.76 (s, 3H), 3.53 (t, J=7.9 Hz, 2H), 0.94 (t, J=7.9 Hz, 2H), 0.0 (s, 9H).

reactant | sodium hydride | 8.10 mmol, 326 mg | [H-].[Na+]
reactant | (1H-Indol-3-yl)-acetic acid methyl ester | 5.3 mmol, 1.0 g | COC(CC1=CNC2=CC=CC=C12)=O | C11H11NO2
reactant | SEMCl | 8.41 mmol, 1.35 mL | C[Si](C)(C)CCOCCl | C6H15ClOSi
solvent | DMF | 13 mL | CN(C)C=O | C3H7NO
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | [1-(2-trimethylsilanyl-ethoxymethyl)-1H-indol-3yl]-acetic acid methyl ester | 1.1 g, 70% | COC(CC1=CN(C2=CC=CC=C12)COCC[Si](C)(C)C)=O | C17H25NO3Si
